US05071966
[Synthesis of benzyl 2-diazo-3-tert-butyldimethylsilyloxybutenoate]
To 1.5 ml of dry acetonitrile were added 83 mg (0.380 millimole) of benzyl 2-diazoacetoacetate, 130 μl (0.933 millimole) of triethylamine and 140 mg (0.929 millimole) of tert-butyldimethylsilyl chloride. A solution obtained by dissolving 70 mg (0.467 millimole) of sodium iodide in 0.5 ml of dry acetonitrile was added dropwise thereto at a room temperature. After the conclusion of the dropwise addition, the reaction mixture was further agitated at 40° C. for 4 hours. To the reaction mixture was added 30 ml of methylene chloride, and the resultant was washed twice with 10 ml portions of water. The organic layer was dried over anhydrous sodium sulfate and concentrated under a reduced pressure to give 118 mg (yield 93.7 %) of the desired compound in a yellow solid. 1H NMR (90 MHz, CDCl3) 4 (ppm): 0.28 (6H, s), 0.97 (9H, s), 4.24 (1H, d), 5.03 (1H, d), 5.21 (2H, s), 7.31 (5H, s).

reactant | benzyl 2-diazoacetoacetate | 0.380 millimole, 83 mg | [N+](=[N-])=C(C(=O)OCC1=CC=CC=C1)C(=O)C | C11H10N2O3
reactant | triethylamine | 0.933 millimole, 130 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 0.929 millimole, 140 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | sodium iodide | 0.467 millimole, 70 mg | [I-].[Na+]
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2-diazo-3-tert-butyldimethylsilyloxybutenoate | 118 mg, yield 93.7 % | [N+](=[N-])=C(C(=O)OCC1=CC=CC=C1)C(=C)O[Si](C)(C)C(C)(C)C | C17H24N2O3Si
